US09388140B2
To a stirred solution of 4-{4-[(2-methylpropyl)amino]-1H-benzimidazol-1-yl}benzonitrile (220 mg, 0.758 mmol) in ethanol (14 m L) at rt was added sodium hydroxide (7 N aqueous solution, 14 mL) in one portion. After stirring at 90° C. for 24 h, the mixture is cooled to rt and acidified with citric acid (10% aqueous solution). The precipitate was filtered, and the remaining solid was washed and dried to yield 4-{4-[(2-methylpropyl)amino]-1H-benzimidazol-1-yl}benzoic acid as a white solid (215 mg, 91.7%).

reactant | 4-{4-[(2-methylpropyl)amino]-1H-benzimidazol-1-yl}benzonitrile | 0.758 mmol, 220 mg | CC(CNC1=CC=CC=2N(C=NC21)C2=CC=C(C#N)C=C2)C | C18H18N4
reactant | sodium hydroxide | 7 N, 14 mL | [OH-].[Na+]
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | ethanol | C(C)O | C2H6O
product | 4-{4-[(2-methylpropyl)amino]-1H-benzimidazol-1-yl}benzoic acid | 215 mg, 91.7% | CC(CNC1=CC=CC=2N(C=NC21)C2=CC=C(C(=O)O)C=C2)C | C18H19N3O2
